Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulindac / Aspirin / Hycodan
 
Attending: ___
 
Chief Complaint:
Cough, increased work of breathing.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ yo F with h/o HTN, HL, OSA, with two admissions for 
productive cough of unclear etiology in ___ who was sent to 
the ED when her home physical therapist found her hypoxic to the 
80's on RA. There, she c/o productive cough x3d, increase WOB, 
increase ___ edema, no f/c, and stable weight. 

Initial ED vitals: 98.0  52  111/49  26  95% on unclear O2. She 
appeared to be SOB and dyspneic after several words, reportedly 
with tight and wheezy sounding lungs, and was having CP from all 
the coughing. Denied fevers. She had a CXR with wet read showing 
cardiomegaly but no focal acute process. ABG showed: 7.48 / 46 / 
63 / 35. She was treated like a COPD exacerbation and received 
albuterol nebs x2, ipratropium nebs x2, Methylpred 125mg IV x1, 
Ceftriaxone 1g IV x1, Azithromycin 500 mg IV x1. She was briefly 
put on Bipap. 

Most recent vitals before transfer: 62  115/66  19  90% on 
Bipap; however also per report, "her RA sats were fine while in 
the ED."

Per OMR notes, the cough is longstanding and thought to be due 
to GERD vs postnasal drip. She was admitted from ___, again on 
___ with productive cough, shortness of breath, and wheezing. 
The first admission, she was given Azithromycin and Prednisone 
x5 days, and nebulizers and felt better and was discharged home. 
She represented ___ with the same sxs, CXR did not show 
infiltrates and reactive airway from viral process was suspected 
and she was given Combivent nebs, IS, Tessalon perles, and 
Guaifenesin. She did not require oxygen that admission. 
 
ROS on arrival to ___: Endorses 6mo to ___ h/o of this cough, 
dysphagia but not outright odynophagia such that she has to take 
her pills with water or applesauce, nasal congestion, trouble 
sleeping due to the coughing, and occasional heartburn. 
She denies f/c/ns, postnasal gtt, or any other symptoms other 
than as above. She states her Bipap is under her bed and she's 
not using it.
 
Past Medical History:
# Status post right shoulder replacement  
# Status post right hip replacement.  
# Sinusitis.
# Nonallergic Rhinitis
# Bronchial asthma - not supported by PFTs
# OSA and ? obesity hypoventilation syndrome - followed by Dr. 
___ 
# GERD.  
# Hypertension.  
# History of glaucoma.  
# Arthritis.  
# CAD with normal persantine MIBI in ___.  
# History of cataract surgery.  
# Influenza A ___
 
Social History:
___
Family History:
Family History: per OMR
Prostate Cancer: positive
Breast Cancer: Her mother, a daughter and a granddaughter.  Her 
___ died of breast cancer at age ___.
COPD: Her daughter died of complications associated w/ COPD
CAD: none 

 
Physical Exam:
96% on RA, satting mid 90's on RA while conversing during 
interview
Tired appearing, speaking full sentences but sounds out of 
breath doing so, not in distress 
Mouth very dry appearing, OP clear no lesions noted
No JVD noted
Slight, fine crackle at R lung base but otherwise CTAB, no 
wheezes appreciated, but with poor air movement
Faint S1, S2 but no audible m/g appreciated
Soft, NT ND abdomen, BS+
No BLE edema noted, extremities warm
CN ___ grossly intact, moving all extremities, conversant and 
lucid

 
Pertinent Results:
Admissions Labs:
___ 03:50PM BLOOD WBC-7.9 RBC-4.52 Hgb-13.3 Hct-38.9 MCV-86 
MCH-29.4 MCHC-34.1 RDW-15.2 Plt ___
___ 03:50PM BLOOD Neuts-59.6 ___ Monos-5.1 Eos-5.2* 
Baso-1.1
___ 03:50PM BLOOD ___ PTT-24.2 ___
___ 03:50PM BLOOD Glucose-99 UreaN-10 Creat-0.9 Na-140 
K-4.1 Cl-100 HCO3-31 AnGap-13
___ 04:42PM BLOOD Type-ART pO2-63* pCO2-46* pH-7.48* 
calTCO2-35* Base XS-9
___ 03:58PM BLOOD Lactate-2.2*

Discharge Labs:
___ 05:20AM BLOOD WBC-6.6 RBC-5.00 Hgb-14.2 Hct-41.5 MCV-83 
MCH-28.4 MCHC-34.1 RDW-14.7 Plt ___
___ 05:20AM BLOOD Glucose-292* UreaN-15 Creat-1.0 Na-142 
K-3.1* Cl-102 HCO3-27 AnGap-16

Chest x-ray (___):
Prominence of the hila appears similar to prior examinations. 
There is mild cardiomegaly and tortuosity of the aorta. Within 
the lung parenchyma, no overt pulmonary edema is seen. No focal 
opacity to suggest pneumonia is present. No pneumothorax is 
identified. No pleural effusion is seen. The pleural surface 
contours are normal. There are bilateral shoulder prostheses.
IMPRESSION: No evidence of acute cardiopulmonary process. 

CT chest: full report pending at time of discharge. Film was 
reviewed with ICU team and did not show evidence of acute 
process such as infiltrate or pleural effusion.

 
Brief Hospital Course:
A/P: In summary this is an ___ with chronic sinusitis and 
bronchitis, 2 recent admissions for cough, who presents with 
persistent cough and shortness of breath. 

1. Persistent cough: Unclear etiology:  On presentation Ms. 
___ appeared to be SOB and dyspneic after several words, 
reportedly with tight and wheezy sounding lungs, and was having 
CP from repeated coughing. Denied fevers. She had a CXR with wet 
read showing cardiomegaly but no focal acute process. ABG 
showed: 7.48 / 46 / 63 / 35. She was treated like a COPD 
exacerbation and received albuterol nebs x2, ipratropium nebs 
x2, Methylpred 125mg IV x1, Ceftriaxone 1g IV x1, Azithromycin 
500 mg IV x1. She was briefly put on Bipap. Vitals before 
transfer to ICU: 62  115/66  19  90% on Bipap; however also per 
report, "her RA sats were fine while in the ED."

Per OMR notes, the cough is longstanding and thought to be due 
to GERD vs postnasal drip.   In the ICU, pt chart reviewed.  
PFT's with mild restrictive defect, can't r/o obstructive 
defect, TLC's normal without change in FVC since last measured. 
Seen by Dr. ___ in ___ who found her cough was improved 
with azelastine and felt her PFT's were near enough to normal. 
Etiologies to consider include postnasal gtt, restrictive vs 
obstructive lung disease, GERD/laryngeopharyngeal reflux, 
chronic aspiration, recurrent viral URI's in the setting of 
reactive airway disease/asthma exacerbations, Lisinopril effect 
(was discontinued 2 wks ago), lung cancer (h/o smoking present 
but not strong), and allergic reaction. Her ABG indicated some 
degree of CO2 retention and possible OSA. Per PCP, had increased 
___ edema and TTE was considered but not performed in house as 
patient appeared clinically well in the ICU.  While in the ICU, 
held off on providing further steroids.  She was given 
albuterol/ipartropium nebs q2 hours as needed.  No further 
antibiotics were provided.
Her presentation was stable, with a persistent hacking cough.  
Went for a CT chest which was suggestive of severe 
bronchomalacia of the right main stem 
bronchus, with inflammatory changes of the bronchi and 
bronchioles to the lower lobes, but no acute process. When her 
respiratory status was felt to be at baseline, Ms. ___ was 
d/c home with PRN nebulizers and close PCP follow up.  
Would recommend f/u with GI, ENT, pulm, allergy as outpt 
(allergy testing has been negative x2) 

2. CAD/HTN: Uneventful in the hospital.  Continued home HCTZ, 
Atenolol, Amlodipine, Simvastatin. 

3. Depression: Continued home Sertraline.

Emergency Contact:  ___:  DNR/DNI, confirmed with pt. 
 
Medications on Admission:
- albuterol inhalers  
- alendronate 70 mg weekly  
- amlodipine 10 mg daily  
- atenolol 100 daily  
- azelastine 137 mcg 2 sprays each nostril daily  
- benzonatate 100 mg tid prn cough  
- HCTZ 25 mg daily  
- Omeprazole 40 mg bid  
- KCl 20 daily  
- Sertraline 75 mg daily  
- Simvastatin 10 daily  
.  
- Of note, pt states not taking Lisinopril 40 mg daily or 
Ipratropium nebs  

 
Discharge Medications:
- albuterol inhalers  
- alendronate 70 mg weekly  
- amlodipine 10 mg daily  
- atenolol 100 daily  
- azelastine 137 mcg 2 sprays each nostril daily  
- benzonatate 100 mg tid prn cough  
- HCTZ 25 mg daily  
- Omeprazole 40 mg bid  
- KCl 20 daily  
- Sertraline 75 mg daily  
- Simvastatin 10 daily  
- Albuterol nebs q4 hours PRN 
- Ipratroprium nebs q4 hours PRN
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Chronic Obstructive Pulmonary Disease exacerbation
.
Secondary: 
 Coronary Artery Disease 
 Hypertension
 Bronchial asthma
 Hypercholesterolemia
 Depression
 Gastroesophageal Reflux Disease
 Osteoporosis
 Chronic sinusitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because of shortness of breath 
and cough.  In the emergency room, physicians treated you for a 
Chronic Obstructive Pulmonary Disease (COPD) flare, which you 
have had in the past.  You were given nebulizers as well as 
steroids and antibitoics to help with your shortness of breath.  
Because you were continuing to have difficulty breathing, you 
were admitted to the ICU for closer monitoring.  In the ICU, you 
did well without steroids or antibiotics, but continued to have 
a hacking cough.  You were given albuterol and ipratropium 
nebulizer treatments to help with your breathing.  It was felt 
you were stable to go home, and have your cough evaluated by 
your primary care doctor.  You will be going home with 
prescriptions with nebulizers, as well as cough suppressants. 
.
If you develop fever, chest pain, worsening shortness of breath, 
dizziness, or worsening fatigue, please see your primary care 
doctor or return to the closest emergency department for further 
evaluation.
.
It has been a pleasure taking care of you Ms. ___!
 
Followup Instructions:
___